US07361659B2
5-(3-Ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(2-hydroxy-ethylsulfamoyl)-thiophen-3-yl]-amide
The title compound was prepared from 5-(3-ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.10) and 4-amino-5-chloro-thiophene-2-sulfonic acid (2-hydroxy-ethyl)-amide (example B.6) according to general procedure II. Light yellow solid. MS (ISP) 656.0 [(M−H)−]; mp 250° C.

reactant | 5-(3-ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | C(C)OC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C17H11F6N3O3
reactant | 4-amino-5-chloro-thiophene-2-sulfonic acid (2-hydroxy-ethyl)-amide | OCCNS(=O)(=O)C=1SC(=C(C1)N)Cl | C6H9ClN2O3S2
product | 5-(3-Ethoxy-4-trifluoromethyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(2-hydroxy-ethylsulfamoyl)-thiophen-3-yl]-amide | ClC=1SC(=CC1NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC)S(NCCO)(=O)=O | C23H18ClF6N5O5S2
